US04898949
1,1-Bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene
A mixture of 1,1-bis-(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol (0.5 g, 1.5 mmoles) and p-toluenesulfonic acid (0.2 g) was heated at reflux in toluene (30 mL) for 16 hours. The mixture was cooled, diluted with diethyl ether (50 mL) and extracted with saturated sodium bicarbonate solution and water. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was triturated with diethyl ether to give 0.3 g of the title compound; m.p.=120°-125° C.

reactant | 1,1-bis-(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol | 1.5 mmoles, 0.5 g | FC1=CC(=C(C=C1)C(CC1=NN=NN1C)(O)C1=C(C=C(C=C1)F)C)C | C18H18F2N4O
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1,1-Bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene | 0.3 g | FC1=CC(=C(C=C1)C(=CC1=NN=NN1C)C1=C(C=C(C=C1)F)C)C | C18H16F2N4
